US06716851B2
4-(2-Methoxy-5-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 2-methoxy-5-methylaniline (40 mg, 0.290 mmol) similar to Example 115 and isolated as a white solid (48 mg, 69%). 1H NMR (CDCl3): 8.79 (dd, J=1.8, 4.5 Hz, 2H), 8.30 (dd, J=1.8, 4.5 Hz, 2H), 7.97 (s, 1H), 7.46 (s, 1H), 6.99 (dd, J=1.5, 8.1 Hz, 1H), 6.94 (s, 1H), 6.89 (d, J=8.4 Hz, 1H), 3.90 (s, 3H), 2.41 (s, 3H).

reactant | 4-chloro-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=CC=NC=C1 | C10H5ClF3N3
reactant | 2-methoxy-5-methylaniline | 0.290 mmol, 40 mg | COC1=C(N)C=C(C=C1)C | C8H11NO
product | 4-(2-Methoxy-5-methylanilino)-2-(4-pyridinyl)-6-(trifluoromethyl)pyrimidine | COC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=CC=NC=C2)C=C(C=C1)C | C18H15F3N4O
